US04806685
Preparation of (E)-1,2-diphenyl-3,3,3-trifluoro-1-[4-(2-morpholinoethoxy)-phenyl]-propene
A mixture of 3.34 g (7.5 mmoles) of (E)-1-[4-(2-bromoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene, prepared as described in Example 7, and 13 g of morpholine is boiled for one hour. The reaction mixture is processed as described in Example 1, and the crude product is crystallized from hexane. 2.80 g (82.4%) of the aimed compound are obtained; m.p.: 84°-89° C.

reactant | (E)-1-[4-(2-bromoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene | 7.5 mmoles, 3.34 g | BrCCOC1=CC=C(C=C1)\C(=C(\C(F)(F)F)/C1=CC=CC=C1)\C1=CC=CC=C1 | C23H18BrF3O
reactant | morpholine | 13 g | N1CCOCC1 | C4H9NO
product | (E)-1,2-diphenyl-3,3,3-trifluoro-1-[4-(2-morpholinoethoxy)-phenyl]-propene | 2.80 g, 82.4% | C1(=CC=CC=C1)/C(=C(\C(F)(F)F)/C1=CC=CC=C1)/C1=CC=C(C=C1)OCCN1CCOCC1 | C27H26F3NO2
